US05977152
2-(2,2,3,3-Tetrafluoropropoxy)-5-(hydroxymethyl)pyridine
Ethyl 6-(2,2,3,3-tetrafluoropropoxy)nicotinate was reduced with diisobutyl aluminum hydride in the same manner as in Reference example 21 to obtain the title compound as an oil in a yield of 100%.

reactant | Ethyl 6-(2,2,3,3-tetrafluoropropoxy)nicotinate | FC(COC1=NC=C(C(=O)OCC)C=C1)(C(F)F)F | C11H11F4NO3
reactant | diisobutyl aluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
product | 2-(2,2,3,3-Tetrafluoropropoxy)-5-(hydroxymethyl)pyridine | yield of 100% | FC(COC1=NC=C(C=C1)CO)(C(F)F)F | C9H9F4NO2
